US09376433B2
To a suspension of 3-[4-(1-hydroxy-1-methyl-ethyl)-phenyl]-2H-isoquinolin-1-one (83.8 mg, 0.30 mmol) in methanol (1 ml) is added toluene-4-sulfonic acid monohydrate (5.2 mg, 0.030 mmol). The reaction mixture is stirred for 5 days at ambient temperature. The reaction mixture, a white suspension, is evaporated and the residue is chromatographed on a silica gel column with cyclohexane/ethyl acetate as eluent to afford 3-[4-(1-methoxy-1-methyl-ethyl)-phenyl]-2H-isoquinolin-1-one as white crystals; HPLC/MS 2.66 min (B), [M+H] 294;

reactant | 3-[4-(1-hydroxy-1-methyl-ethyl)-phenyl]-2H-isoquinolin-1-one | 0.30 mmol, 83.8 mg | OC(C)(C)C1=CC=C(C=C1)C=1NC(C2=CC=CC=C2C1)=O | C18H17NO2
reactant | toluene-4-sulfonic acid monohydrate | 0.030 mmol, 5.2 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 1 ml | CO | CH4O
product | 3-[4-(1-methoxy-1-methyl-ethyl)-phenyl]-2H-isoquinolin-1-one | COC(C)(C)C1=CC=C(C=C1)C=1NC(C2=CC=CC=C2C1)=O | C19H19NO2
